Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors / seasonal
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ hx of MI in ___, stable VTach in ___ s/p ICD placement on 
Coumadin that he reports is for VTach presents with SOB and pain 
over his ICD.  The patient reported that over for the past 
couple of weeks, he has noted that he has been increasing SOB 
with minimal exertion. He reports that his SOB came on while 
moving a ping pong table and subsequently with moving machinery 
at work. These activities never previously caused DOE. The 
patient reported that last week he noted that he was having L 
sided non exertional CP over his ICD that radiates with numbness 
and tingling down his left arm. He denied any trauma to that 
area. This is intermittent and does not always occur with 
exertion. He denies ever having this sort of CP or DOE 
previously. When he was having VT he reports that felt 
different, but cannot elaborate further. He denies any fevers, 
chills, recent travel, smoking, palpitations, ICD firing, PND, 
orthopnea, ___ edema, early satiety. He has SLN at home, but 
never tried taking it for this pain and repors that he has never 
taken SLN before. He took 81mg aspirin the morning of admission. 
 

In the ED intial vitals were: 98.0 63 161/79 18 100%.  Labs were 
significant for WBC 6.4, H&H 14.6/44.8, Chem7 unremarkable. Trop 
<0.01. INR 2.3. EKG showed a paced, v sensed vs possibly A 
paced, Vpaced (difficult to discern if V pacing spikes). CXR no 
acute intrathoracic process. Patient was given ASA. They wpoke 
with patient's cardiologist who recommended admission to ___ 
for rule out and possible cardiac cath. Vitals prior to transfer 
were: 98.4 61 132/69 16 97% RA.  

On the floor, he denies any symptoms and reports feeling well.
 
 
Past Medical History:
Hypertension  
MI (___), treated at ___  
Dyslipidemia  
stable VTach in ___ s/p ICD placement and on Coumadin
 
Social History:
___
Family History:
Father died at ___ from MI, mother passed away from cancer, aunt 
and uncle also died from CAD in their ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==================
Vitals- T 98.0  BP 137/68  HR 61  R 20  99%RA  
General- well-appearing, NAD  
HEENT- PERRL, EOMI, MMM  
Neck- unable to visual JVD sitting at 90degrees  
Lungs- CTAB No wheezes, crackles, rhonchi  
CV- Nl S1, S2, RRR, No MRG ICD palpated in L upper chest wall 
without tenderness  
Abdomen- Soft, NT/ND NABS  
GU- no foley  
Ext- warm, well-perfused  
Neuro- moves all extremities, AOX3 

DISCHARGE PHYSICAL EXAM:
===================
Vitals- T 98.2  BP 120/65  HR 60  R 16  100%RA  
General- well-appearing, NAD, pleasant
HEENT- PERRL, EOMI, MMM  
Neck- soft, supple, no JVD  
Lungs- clear to auscultation bilaterally
CV- RRR, nl S1 S2, no murmurs, ICD palpable over L upper chest 
wall very superficial under skin, unable to reproduce tenderness 

Abdomen- +BS, soft, non-tender, non-distended  
GU- no foley  
Ext- warm, well-perfused  
Neuro- moves all extremities, AOX3 
 
Pertinent Results:
ADMISSION LABS:
===========
___ 04:00PM   WBC-6.4 RBC-5.53 HGB-14.6 HCT-44.8 MCV-81* 
MCH-26.4* MCHC-32.6 RDW-14.1
___ 04:00PM   NEUTS-71.6* ___ MONOS-7.6 EOS-1.2 
BASOS-0.9
___ 04:00PM   PLT SMR-LOW PLT COUNT-122*
___ 04:00PM   GLUCOSE-76 UREA N-24* CREAT-1.0 SODIUM-138 
POTASSIUM-5.1 CHLORIDE-101 TOTAL CO2-26 ANION GAP-16
___ 04:00PM   cTropnT-<0.01
___ 04:34PM   cTropnT-<0.01
___ 04:30PM   ___ PTT-41.9* ___

DISCHARGE LABS:
===========
___ 05:40AM BLOOD WBC-4.8 RBC-5.26 Hgb-13.9* Hct-42.7 
MCV-81* MCH-26.4* MCHC-32.5 RDW-14.2 Plt ___
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD ___
___ 05:40AM BLOOD Glucose-94 UreaN-23* Creat-0.9 Na-140 
K-4.1 Cl-105 HCO3-27 AnGap-12
___ 01:00AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:40AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.2

PERTINENT IMAGING:
=============
___  ImagingCHEST (PA & LAT)
IMPRESSION:  No acute cardiopulmonary process.

___  CardiovascularECG
Atrial pacing with preserved A-V conduction. Right bundle-branch 
block with left anterior fascicular block. No major change from 
the previous tracing.
 
 
Brief Hospital Course:
___ hx of MI in ___, stable VTach in ___ s/p ICD placement on 
Coumadin that he reports is for VTach presents with SOB and pain 
over his ICD.  

# DOE: Patient with significant cardiac history with MI 
presenting with progressive dyspnea on exertion. ICD 
interrogation was unremarkable.  On further investigation, 
appears that DOE occurs only with strenuous activity such as 
heavy lifting. As DOE is relieved with rest there is concern 
this could be patient's anginal equivalent.  Patient was ruled 
out for ACS with negative cardiac enzymes as well as EKG that 
was unchanged from prior.  Patient appeared euvolemic on exam 
and did not have any history of orthopnea or PND.  Patient was 
continued on home dose aspirin, metoprolol and furosemide.  
Patient is discharged to close follow-up with outpatient 
cardiology for further workup of dyspnea.  

# Left sided chest pain: Patient's ICD appears very superficial 
under the skin, and patient describes his left sided chest pain 
as directly overlying the ICD.  This is exacerbated by lifting 
weights with his left arm as well as reaching his arm overhead, 
which is a motion frequently required of the patient at work.  
ACS was ruled out as above.  Patient remained chest free during 
this admission without intervention.  No events observed on 
telemetry.  He is advised to exercise caution when performing 
strenuous activities.  

# VT s/p ICD Placement: Continued on metoprolol, furosemide, 
digoxin and warfarin.  

# HTN:  Well-controlled during this admission. Continued on 
metoprolol and furosemide.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. Metoprolol Tartrate 50 mg PO QAM 
3. Metoprolol Tartrate 25 mg PO QPM 
4. Warfarin 2.5 mg PO DAILY16 
5. Digoxin 0.125 mg PO DAILY 

 
Discharge Medications:
1. Digoxin 0.125 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Metoprolol Tartrate 50 mg PO QAM 
4. Metoprolol Tartrate 25 mg PO QPM 
5. Warfarin 2.5 mg PO DAILY16 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary diagnosis: chest pain
secondary diagnosis: coronary artery disease, hypertension, 
hyperlipidemia, history of ventricular tachycardia s/p ICD 
placement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you while you were admitted to 
___. You were admitted because you were having chest pain. 
Your heart was monitored overnight, and your electrocardiogram, 
and blood tests were reassuring. You did not experience any 
further chest pain or shortness of breath since admission. 

Please take your medications as prescribed and follow up with 
your doctors as ___. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___